US09388161B2
Bromocyclobutane (150 g, 1.12 mol) was added to a mixture of 2,3-difluoro-5-hydroxybenzoic acid (50 g, 287 mmol), and potassium carbonate (230 g, 1.67 mol) in acetonitrile (1500 mL), and the resulting mixture stirred overnight at 90° C. The reaction mixture was cooled to room temperature, filtered, and concentrated under vacuum. The residue was purified via column chromatography on silica gel (eluting with petroleum ether) to afford cyclobutyl 5-cyclobutoxy-2,3-difluorobenzoate (49 g, 60%) as a yellow green solid. MS (ESI, pos. ion) m/z 283 [M+H]+.

reactant | Bromocyclobutane | 1.12 mol, 150 g | BrC1CCC1 | C4H7Br
reactant | 2,3-difluoro-5-hydroxybenzoic acid | 287 mmol, 50 g | FC1=C(C(=O)O)C=C(C=C1F)O | C7H4F2O3
reactant | potassium carbonate | 1.67 mol, 230 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 1500 mL | C(C)#N | C2H3N
product | cyclobutyl 5-cyclobutoxy-2,3-difluorobenzoate | 49 g, 60% | C1(CCC1)OC=1C=C(C(=C(C(=O)OC2CCC2)C1)F)F | C15H16F2O3
